US06303742B1
76.5 g (0.55 mole) of p-nitrophenol, 32.3 g (0.25 mole) of glycerol-αα′-dichlorohydrin, and 500 ml of xylene were added to a reaction solution, and the reaction mixtures were heated with stirring under a nitrogen current. After dissolving the solid, 345 g (2.5 moles) of potassium carbonate anhydride was added, and the reaction mixtures were refluxed with stirring for 12 hours. The reacted solution was separated by filtration while it was warm. After cooling, hexane was added to the filtrate. A yellow viscous liquid was obtained. After column purification and drying this liquid, a 55 g-yellow viscous liquid (1,3-bis(4-nitrophenoxy)-2-propyl alcohol) was obtained.

reactant | p-nitrophenol | 0.55 mole, 76.5 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3-bis(4-nitrophenoxy)-2-propyl alcohol | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C15H14N2O7
